*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHSC500ELL121MJC5S
*//   Date        : 2018/02/13
*//   Update 	  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHSC500ELL121MJC5S_20deg-C 1 2

C1 4 2 8.18e-05
C2 5 2 1.95e-05
C3 6 2 8.35e-06
R1 3 4 1.16e-02
R2 4 5 9.40e-02
R3 5 6 2.13e+00
L1 1 3 5.20e-09

.ENDS
*$
